US06252097B1
70 ml of phosphoric acid was added to 3.93 g (16.2 mmol) of 1-methoxycarbonyl-2-methyl-6-isopropylazulene, and the mixture was heated at 100° C. for one hour. The resultant reaction solution was added to 300 ml of an aqueous solution containing 30 g of sodium hydroxide and extracted with hexane. An organic phase of the extract was dried with magnesium sulfate, and the solvent remaining therein was removed under a reduced pressure. The obtained crude product was filtered through silica gel. Further, the solvent contained in the filtered solid component was removed, thereby obtaining 2.23 g of 2-methyl-6-isopropylazulene (yield: 75%).

reactant | phosphoric acid | 70 ml | P(O)(O)(O)=O | H3O4P
reactant | 1-methoxycarbonyl-2-methyl-6-isopropylazulene | 16.2 mmol, 3.93 g | COC(=O)C1=C(C=C2C=CC(=CC=C12)C(C)C)C | C16H18O2
reactant | sodium hydroxide | 30 g | [OH-].[Na+]
product | 2-methyl-6-isopropylazulene | 2.23 g, yield: 75% | CC1=CC2=CC=C(C=CC2=C1)C(C)C | C14H16
